US07348318B2
Synthesis of (3S, P (SR))-3-amino-1-amino(n-butanoylamino)phosphinyl-2-piperidone
Palladium black (30.0 mg) was added to a solution of (3S, P (SR))-3-benzyloxycarbonylamino-1-amino(n-butanoylamino)phosphinyl-2-piperidone (153.2 mg, 0.3865 mmol) in ethanol (10 mL), and the resulting mixture was stirred at room temperature for 4 hours under a hydrogen atmosphere.

reactant | 3-benzyloxycarbonylamino-1-amino(n-butanoylamino)phosphinyl-2-piperidone | 0.3865 mmol, 153.2 mg | C(C1=CC=CC=C1)OC(=O)NC1(C(N(CCC1)N)=O)P(=O)NC(CCC)=O | C17H25N4O5P
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Palladium black | 30.0 mg | [Pd] | Pd
product | 3-amino-1-amino(n-butanoylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC(CCC)=O | C9H19N4O3P
